US06660742B2
Concentrated HCl (1.5 mL) was added to a solution of t-butyl ethyl (2,4-dinitronaphthalen-1-yl)malonate (0.60 g, 1.48 mmol) in AcOEt (6 mL), and the mixture was stirred overnight. The mixture was diluted with AcOEt (30 mL), washed with H2O (10 mL), saturated aqueous NaHCO3 (10 mL) and saturated aqueous NaCl (10 mL). The organic layer was dried (Na2SO4) and concentrated under reduced pressure. Recrystallization (Ether) afforded ethyl (2,4-dinitronaphthalen-1-yl)acetate (0.31 g, 69%) as a pale orange solid. M.p. 132-134° C.; 1H NMR (CDCl3, 500 MHz) δ 8.71 (s, 1H), 8.61 (d, 8.5, 1H), 8.30 (d, 8.5, 1H), 7.92 (dt, 1.0, 8.5, 1H), 7.86 (dt, 1.5, 8.5, 1H), 4.51 (s, 2H), 4.22 (q, 7.5, 2H), 1.27 (t, 7.5, 3H); 304 (M−); IR (neat) 3087, 2989, 1732, 1528, 1422, 1355, 1204, 1169, 1027, 889, 832, 779 cm−1. FABMS (NBA) m/z 305 (M+H+).

reactant | HCl | 1.5 mL | Cl | ClH
reactant | t-butyl ethyl (2,4-dinitronaphthalen-1-yl)malonate | 1.48 mmol, 0.60 g | [N+](=O)([O-])C1=C(C2=CC=CC=C2C(=C1)[N+](=O)[O-])C(C(=O)OC(C)(C)C)C(=O)OCC | C19H20N2O8
solvent | AcOEt | 6 mL | CCOC(=O)C | C4H8O2
solvent | AcOEt | 30 mL | CCOC(=O)C | C4H8O2
product | ethyl (2,4-dinitronaphthalen-1-yl)acetate | 0.31 g, 69% | [N+](=O)([O-])C1=C(C2=CC=CC=C2C(=C1)[N+](=O)[O-])CC(=O)OCC | C14H12N2O6
